US06441017B1
Step I: (S)-N-{2-[1-(4-Cyano-3-fluorobenzyl)-1H-imidazol-5-yl]ethyl}-N-{1-[7-(triisopropylsilyloxy)naphthalene-1-carbonyl]pyrrolidin-3-yl}carbamic Acid Triisopropylsilyl Ester
(S)-N-{2-[1-(4-Cyano-3-fluorobenzyl)-1H-imidazol-5-yl]ethyl}-N-(pyrrolidin-3-yl)carbamic acid triisopropylsilyl ester, as described above in Step H, (242 mg, 0.471 mmol), 7-(triisopropylsilyloxy)-1-naphthlenecarboxylic acid, as described in Example 54, Step C, (162 mg, 0.471 mmol), PYBOP (245 mg, 0.471 mmol), and triethylamine (0.085 mL, 0.612 mmol) were combined in CH2Cl2 (4 mL). The reaction mixture was stirred at ambient temperature for 4 hours, then poured into 10% aqueous citric acid and extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo, to yield the above-titled compound.

reactant | (S)-N-{2-[1-(4-Cyano-3-fluorobenzyl)-1H-imidazol-5-yl]ethyl}-N-(pyrrolidin-3-yl)carbamic acid triisopropylsilyl ester | C(C)(C)[Si](C(C)C)(C(C)C)OC(N([C@@H]1CNCC1)CCC1=CN=CN1CC1=CC(=C(C=C1)C#N)F)=O | C27H40FN5O2Si
reactant | 7-(triisopropylsilyloxy)-1-naphthlenecarboxylic acid | 0.471 mmol, 242 mg | C(C)(C)[Si](OC1=CC=C2C=CC=C(C2=C1)C(=O)O)(C(C)C)C(C)C | C20H28O3Si
reactant | PYBOP | 0.471 mmol, 162 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.612 mmol, 0.085 mL | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-{2-[1-(4-Cyano-3-fluorobenzyl)-1H-imidazol-5-yl]ethyl}-N-{1-[7-(triisopropylsilyloxy)naphthalene-1-carbonyl]pyrrolidin-3-yl}carbamic Acid Triisopropylsilyl Ester | C(C)(C)[Si](C(C)C)(C(C)C)OC(N([C@@H]1CN(CC1)C(=O)C1=CC=CC2=CC=C(C=C12)O[Si](C(C)C)(C(C)C)C(C)C)CCC1=CN=CN1CC1=CC(=C(C=C1)C#N)F)=O | C47H66FN5O4Si2
